US04634768
Synthesis of β-piperidinoethyl 6-chloro-3-methylflavone-8-carboxylate
A 14.4 g (0.1 mole) quantity of sodium benzoate was added with stirring to a mixture of 10.2 g (0.03 mole) of β-piperidinoethyl 5-chloro-3-propionylsalicylate and 12.6 g (0.09 mole) of benzoyl chloride. The resulting mixture was heated in an oil bath at 180° to 190° C. for 8 hours to undergo reaction. After cooling, a 5% aqueous solution of sodium carbonate was added to the reaction mixture. The solids formed were purified with alcohol to provide 10.6 g (83.0%) of white crystals which were treated with a hydrochloric acid-alcohol mixture and were recrystallized from alcohol. The hydrochloride of the compound was found to have a melting point of 196.1° to 198.3° C.

reactant | sodium benzoate | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | β-piperidinoethyl 5-chloro-3-propionylsalicylate | 0.03 mole, 10.2 g | ClC1=CC(=C(C(C(=O)OCCN2CCCCC2)=C1)O)C(CC)=O | C17H22ClNO4
reactant | benzoyl chloride | 0.09 mole, 12.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | β-piperidinoethyl 6-chloro-3-methylflavone-8-carboxylate | 10.6 g, 83.0% | ClC=1C=C2C(C(=C(OC2=C(C1)C(=O)OCCN1CCCCC1)C1=CC=CC=C1)C)=O | C24H24ClNO4
